US03996230
In the manner given in Example 1, 1,8-dibromo-10-nitro-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is heated with 1-ethylpiperazine to give 8-bromo-10-nitro-1-(4-ethylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1,8-dibromo-10-nitro-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=NC=CC=C2)C=C(C=C1[N+](=O)[O-])Br | C15H8Br2N6O2
reactant | 1-ethylpiperazine | C(C)N1CCNCC1 | C6H14N2
product | 8-bromo-10-nitro-1-(4-ethylpiperazino)-6-(2-pyridyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC=1C=C(C2=C(C(=NCC=3N2C(=NN3)N3CCN(CC3)CC)C3=NC=CC=C3)C1)[N+](=O)[O-] | C21H21BrN8O2
